US06903118B1
3-pyridin-3-yl-N-{4-[4-(1,2,3,4-tetrahydronaphthalin-1-yl)-piperazin-1-yl]-butyl}-acrylamide (Substance 87)
Batch size: 2.7 g (18 mmol) 3-(3-pyridyl)-acrylic acid, 3.15 g (19 mmol) CDI and 5.0 g (17.4 mmol) 4-[4-(1,2,3,4-tetrahydro-naphthalin-1-yl)-piperazin-1-yl]-butylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 18 mmol, 2.7 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | CDI | 19 mmol, 3.15 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-[4-(1,2,3,4-tetrahydro-naphthalin-1-yl)-piperazin-1-yl]-butylamine | 17.4 mmol, 5.0 g | C1(CCCC2=CC=CC=C12)N1CCN(CC1)CCCCN | C18H29N3
product | 3-pyridin-3-yl-N-{4-[4-(1,2,3,4-tetrahydronaphthalin-1-yl)-piperazin-1-yl]-butyl}-acrylamide | N1=CC(=CC=C1)C=CC(=O)NCCCCN1CCN(CC1)C1CCCC2=CC=CC=C12 | C26H34N4O
